US07563910B2
5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(rac)-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-chloro-5-(trifluoromethyl)-phenyl]-ethanone as compound of formula S, 2,2-dimethyl-1,3-dioxolan-4-methylamine as R3—(CH2)m—NH2 and (1R,2R)-2-aminocyclohexanol as R1R2NH, MS (ISP) 515.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-chloro-5-(trifluoromethyl)-phenyl]-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)Cl | C9H5BrClF3O
reactant | 2,2-dimethyl-1,3-dioxolan-4-methylamine | CC1(OCC(O1)CN)C | C6H13NO2
reactant | (1R,2R)-2-aminocyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(rac)-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)Cl)CC1OC(OC1)(C)C)C | C25H30ClF3N2O4
